US06956036B1
Step A: 1-(4-Benzyloxy-2-fluoro-phenyl)-ethanone
Potassium carbonate (5.5 g, 40.0 mmol) and benzyl bromide (4.6 ml, 38.9 mmol) were added to a solution of 2-fluoro-4-hydroxyacetophenone (5.0 g, 32.4 mmol) in ethanol (50 ml), and the mixture was heated at reflux temperature for 16 h. The reaction mixture was evaporated to a residue to which 2 N HCl (100 ml) was added. This mixture was extracted with ethyl ether (3×60 ml) and the combined extracts were washed with brine (10 ml), dried (MgSO4), and evaporated to a residue, which was crystallized from ethyl acetate (7.4 g, 93%): MS(ES) m/z 245 (M+).

reactant | Potassium carbonate | 40.0 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 38.9 mmol, 4.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-fluoro-4-hydroxyacetophenone | 32.4 mmol, 5.0 g | CC(=O)C1=C(C=C(C=C1)O)F | C8H7FO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-Benzyloxy-2-fluoro-phenyl)-ethanone | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(C)=O)F | C15H13FO2
